US04072680
(c) 5-Chloropyrazolo[1,5-a]pyrido[3,2-e]pyrimidine
75 g. of hydroxypyrazolo[1,5-a]pyrido[3,2-e]pyrimidine are refluxed in 200 ml. of phosphorus oxychloride for 12 hours with stirring. The excess phosphorus oxychloride is removed in vacuo and the remaining oil poured onto ice. The aqueous solution is neutralized with sodium hydroxide and evaporated in vacuo to about 100 ml. The product, 5-chloropyrazolo[1,5-a]pyrido[3,2-e]pyrimidine, crystallizes and is filtered off, yield: 60 g. (73%); m.p. 159.8° (ethyl acetate).

reactant | hydroxypyrazolo[1,5-a]pyrido[3,2-e]pyrimidine | OC1=NN2C(N=CC3=C2N=CC=C3)=C1 | C9H6N4O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Chloropyrazolo[1,5-a]pyrido[3,2-e]pyrimidine | ClC1=NC=2N(C3=C1C=CC=N3)N=CC2 | C9H5ClN4
